US09120812B2
4.34 g of 1-amino-2-methylpropan-2-ol (48.68 mmol) are placed in 50 ml of MeOH. 2.79 ml of acetic acid (48.68 mmol) and then 4.72 ml of N-Boc-L-prolinal (24.34 mmol), diluted beforehand in 20 ml of MeOH, are successively added dropwise. The reaction mixture is stirred at room temperature for 30 minutes and 3.22 g of sodium cyanoborohydride (48.68 mmol) are then added portionwise. After stirring at room temperature for 18 hours, the medium is poured into 400 ml of saturated aqueous NaHCO3 solution. The aqueous phase is extracted with 3 times 150 ml of DCM. The organic phases are combined, washed with 200 ml of water, with 200 ml of brine, dried over MgSO4, filtered and evaporated. 7.19 g of (S)-2-[(2-hydroxy-2-methyl propylamino)methyl]pyrrolidine-1-carboxylic acid tert-butyl ester are obtained.

reactant | 1-amino-2-methylpropan-2-ol | 48.68 mmol, 4.34 g | NCC(C)(O)C | C4H11NO
reactant | acetic acid | 48.68 mmol, 2.79 ml | C(C)(=O)O | C2H4O2
reactant | N-Boc-L-prolinal | 24.34 mmol, 4.72 ml | C(=O)(OC(C)(C)C)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | sodium cyanoborohydride | 48.68 mmol, 3.22 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | 400 ml | C(=O)(O)[O-].[Na+]
solvent | MeOH | 50 ml | CO | CH4O
solvent | MeOH | 20 ml | CO | CH4O
product | (S)-2-[(2-hydroxy-2-methyl propylamino)methyl]pyrrolidine-1-carboxylic acid tert-butyl ester | 7.19 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNCC(C)(C)O | C14H28N2O3
